US07825131B2
Step C: 2-Cyano-N-(2,4-dimethoxybenzyl)-N-[2-(3-fluorobenzoyl)-4-methoxyphenyl]acetamide
To a solution of cyanoacetic acid (43.0 mg, 0.511 mmol) in 1 mL of dichloromethane at room temperature was added PCl5 (106 mg, 0.511 mmol). The mixture was heated to reflux for 10 minutes. A solution of {2-[(2,4-dimethoxybenzyl)amino]-5-methoxyphenyl}(3-fluorophenyl)methanone (101 mg, 0.255 mmol) in 1 mL dichloromethane was added, and the reaction was refluxed for an additional 1.5 hours. The reaction was partitioned between EtOAc and saturated NaHCO3 solution, and the organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The titled product was isolated as a yellow foam (117 mg, 99% yield) which was used in the next step without further purification. Proton NMR for the product was consistent with the titled compound. ESI+MS: 463.2 [M+H]+.

reactant | cyanoacetic acid | 0.511 mmol, 43.0 mg | C(#N)CC(=O)O | C3H3NO2
reactant | PCl5 | 0.511 mmol, 106 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | {2-[(2,4-dimethoxybenzyl)amino]-5-methoxyphenyl}(3-fluorophenyl)methanone | 0.255 mmol, 101 mg | COC1=C(CNC2=C(C=C(C=C2)OC)C(=O)C2=CC(=CC=C2)F)C=CC(=C1)OC | C23H22FNO4
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2-Cyano-N-(2,4-dimethoxybenzyl)-N-[2-(3-fluorobenzoyl)-4-methoxyphenyl]acetamide | C(#N)CC(=O)N(C1=C(C=C(C=C1)OC)C(C1=CC(=CC=C1)F)=O)CC1=C(C=C(C=C1)OC)OC | C26H23FN2O5
